US05001125
A mixture of 6 parts of ethyl [1-(6-chloro-3-pyridazinyl)-4-piperidinyl]carbamate and 60 parts of concentrate hydrochloric acid was stirred and refluxed for 24 hours. The reaction mixture was evaporated. Water was added and the whole was treated with concentrate ammonium hydroxide. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated, yielding 3.8 parts (82%) of 1-(6-chloro-3-pyridazinyl)-4-piperidinamine: mp. 260° C. (dec.) (compound 225).

reactant | ethyl [1-(6-chloro-3-pyridazinyl)-4-piperidinyl]carbamate | ClC1=CC=C(N=N1)N1CCC(CC1)NC(OCC)=O | C12H17ClN4O2
reactant | hydrochloric acid | Cl | ClH
product | 1-(6-chloro-3-pyridazinyl)-4-piperidinamine | 82% | ClC1=CC=C(N=N1)N1CCC(CC1)N | C9H13ClN4
